US07232821B2
5-{2-[5-Chloro-2-(4-chlorobenzyloxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester
5-{2-[5-Chloro-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester (138 mg, 0.43 mmol) was treated with 4 chlorobenzyl bromide (0.130 g, 60 mmol) and potassium carbonate (1.000 g) and 2-butanone (5 mL) at reflux for 18 hrs. Upon cooling, the mixture was filtered through highflo and reduced down to an oil. The product was purified using a Water's sep-pak cartridge (10 g) to give (90 mg, 44%).

reactant | 5-{2-[5-Chloro-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester | 0.43 mmol, 138 mg | C(C)OC(C1=CN=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)O)=O | C19H18ClNO3
reactant | chlorobenzyl bromide | 60 mmol, 0.130 g | ClC(C1=CC=CC=C1)Br | C7H6BrCl
reactant | potassium carbonate | 1.000 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 5 mL | CC(CC)=O | C4H8O
product | 5-{2-[5-Chloro-2-(4-chlorobenzyloxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester | C(C)OC(C1=CN=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=C(C=C1)Cl)=O | C26H23Cl2NO3
